US04207321
1: 1,3-Dimethyl-7-(but-3-enyl)-xanthine
13.9 g of 4-bromo-but-1-ene are reacted with 20.2 g of sodium theophylline in 200 ml of dimethyl-formamide at 120° C. with stirring for approximately 6 to 8 hours until the reaction is complete as indicated by thin-layer chromatography. The solvent is then removed under reduced pressure. The residue is dissolved at 20° C. in 100 ml of methylene chloride, separated from insoluble sodium bromide and purified through a column packed with neutral aluminum oxide to remove small quantities of dark-coloured accompanying substances. Melting point: 110° C. (acetone); yield: 21.6 g (91% of theory relative to the starting material used). After thin-layer chromatography on Merck DC finished plates of silica gel 60 F254 with benzene/acetone (6:4) as eluent, the product has an Rf value of 0.54; and with nitromethane/benzene/pyridine (20:10:3) as eluent, an Rf value of 0.65. Utra-violet light was used as indicator, the pyridine of the eluent having, however, to be removed at 50° C. under reduced pressure because of its property to extinguish fluorescence.

reactant | 4-bromo-but-1-ene | 13.9 g | BrCCC=C | C4H7Br
reactant | sodium theophylline | 20.2 g | N1(C)C(=O)N(C)C=2N=CNC2C1=O.[Na]
solvent | dimethyl-formamide | 200 ml | CN(C=O)C | C3H7NO
product | 1,3-Dimethyl-7-(but-3-enyl)-xanthine | CN1C(=O)N(C=2N=CN(C2C1=O)CCC=C)C | C11H14N4O2
